US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (100 mg, 0.32 mmol) in DMSO (2 mL) was added azetidine (37 mg, 0.65 mmol) and DIEA (81 mg, 0.63 mmol). After stirring for 2 hours at 70° C., the reaction mixture was dissolved in water (50 mL), extracted with dichloromethane (3×30 mL), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to afford a residue, which was purified via silica gel column chromatography (2% dichloromethane in petroleum ether) to afford methyl 3-(azetidin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a light yellow solid (60 mg, 56%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.32 mmol, 100 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | azetidine | 0.65 mmol, 37 mg | N1CCC1 | C3H7N
reactant | DIEA | 0.63 mmol, 81 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | methyl 3-(azetidin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 60 mg, 56% | N1(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C19H16FN3O2
